US09255107B2
Preparation of 4-methyl-3-((2-(5-trifluoromethyl-1H-imidazol-2-yl)pyridin-5-yl)ethynyl)-N-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]benzamide
The title compound was prepared using 5-bromo-2-(5-trifluoromethyl-1H-imidazol-2-yl)pyridine and 3-ethynyl-4-methyl-N-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]benzamide as raw materials, according to the method described in Step 4 of Example 3.

reactant | 5-bromo-2-(5-trifluoromethyl-1H-imidazol-2-yl)pyridine | BrC=1C=CC(=NC1)C=1NC(=CN1)C(F)(F)F | C9H5BrF3N3
reactant | 3-ethynyl-4-methyl-N-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]benzamide | C(#C)C=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C23H24F3N3O
product | 4-methyl-3-((2-(5-trifluoromethyl-1H-imidazol-2-yl)pyridin-5-yl)ethynyl)-N-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]benzamide | CC1=C(C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=C1)C#CC=1C=CC(=NC1)C=1NC(=CN1)C(F)(F)F | C32H28F6N6O
